US07666888B2
1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-pyridin-2-ylpiperazine
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 1-(2-pyridyl)piperazine (9.8 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (4.4 mg). Calcd for C20H20N4O2: 348.1586, found 348.1593.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 1-(2-pyridyl)piperazine | 0.060 mmol, 9.8 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
product | 1-{[5-(4-Methylphenyl)isoxazol-4-yl]carbonyl}-4-pyridin-2-ylpiperazine | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCN(CC1)C1=NC=CC=C1 | C20H20N4O2
